Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
RUE weakness and aphasia
 
Major Surgical or Invasive Procedure:
n/a 
 
History of Present Illness:
Time/Date the patient was last known well: 18:45 pm ___

Pre-stroke mRS ___ social history for description): 0

t-PA Administration
[] Yes - Time given:
[x] No - Reason t-PA was not given/considered:

Endovascular intervention: []Yes [x]No Time:

 
___ Stroke Scale score was 3:
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 2
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 0
8. Sensory: 1
9. Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0

HPI:
___ year old man with PMH of HTN, HLD and hypothyroidism who
presents as a transfer from ___ with intermittent RUE
weakness and aphasia since ___ today. 
Briefly, he was sitting at home watching tv when he was unable 
to
move his RUE and difficulty getting his words out, which lasted
for about ___ minutes. He had resolution of his symptoms but a
few minutes later had a similar episode so he went to ___ 
___
for evaluation. At ___, he had three more similar
episodes. TEle stroke was called. Initial NIHSS was 1 for R 
NLFF.
Symptoms worsened again and repeat NIHSS was 3 for right NLFF,
RUE drift and RUE sensory deficit. NCHCT was negative; Tpa was
not given. CTA head and neck was performed and did not show any
vessel cut off. He was also noted to have new onset afib. There
was no neurology services at ___, so he was transferred
for neurology consult. 
He arrived to ___ in stable condition. NIHSS was 3 for right
lower facial, decreased sensation in RUE. While signing forms, 
he
had transient worsening numbness/weakness in his right hand.
NCHCT scan was obtained and did not show any bleed. Hep gtt was
started. He had resolution of symptoms after a few minutes.

 
Past Medical History:
HTN
HLD
Hypothyroidism 
 
Social History:
___
Family History:
Father has hx of stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAM
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language has some mild word finding difficulty with
intact repetition and comprehension.  There were no paraphasic
errors. Pt was able to name both high and low frequency objects. 

Able to read without difficulty. Speech was slightly hypophonic.
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: right lower facial droop
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Right pronator drift. 
Postural tremor in BUE
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___
L  5    ___   5  5    5   5    5  5     5     5   5
R  5    ___   5  5    5   5    5  5     5     5   5 

-DTRs:  
 1+ throughout       
Toe down on right, mute on left

-Sensory: decreased sensation to  light touch, pinprick, and 
proprioception in RUE. No extinction to DSS. + agraphesthesia in 
right hand

-Coordination: Postural tremor. No dysmetria on FNF bilaterally.

-Gait: Deferred
DISCHARGE PHYSICAL EXAM
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language has some mild word finding difficulty with
intact repetition and comprehension.  There were no paraphasic
errors. Pt was able to name both high and low frequency objects. 

Able to read without difficulty. Speech was slightly hypophonic 
.
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: right lower facial droop
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Subtle right pronator 
drift. Postural tremor in BUE.
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___
L  5    ___   5  5    5   5    5  5     5     5   5
R  5    ___   5  5    5   5    5  5     5     5   5 

-DTRs:  
 1+ throughout       
Toe down on right, mute on left

-Sensory: No sensory loss to LT or proprioception. There remains 
agraphesthesia in right hand. No extinction to DSS.

-Coordination: Postural tremor. No dysmetria on FNF bilaterally.

-Gait: Deferred

 
Pertinent Results:
LABORATORY EVALUATION:

___ 06:20AM BLOOD WBC-6.0 RBC-3.91* Hgb-13.3* Hct-38.5* 
MCV-99* MCH-34.0* MCHC-34.5 RDW-12.7 RDWSD-45.2 Plt ___
___ 06:20AM BLOOD ___ PTT-59.9* ___
___ 06:20AM BLOOD Glucose-106* UreaN-8 Creat-0.8 Na-141 
K-3.9 Cl-103 HCO3-25 AnGap-13
___ 12:30AM BLOOD cTropnT-<0.01
___ 06:20AM BLOOD Calcium-8.9 Phos-3.1 Mg-1.8
___ 12:30AM BLOOD %HbA1c-5.7 eAG-117
___ 12:30AM BLOOD Triglyc-166* HDL-52 CHOL/HD-3.9 
LDLcalc-116

IMAGING EVALUATION:

Non-Contrast CT of Head ___:
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Opacification of the bilateral mastoid air cells and middle
ear cavities is nonspecific, but could be secondary to chronic 
obstruction of the eustachian tubes or infection. Please 
correlate with clinical history and exam. 

MRI head ___:
1.  Study is mildly degraded by motion. 
2. Acute to subacute infarcts within the left postcentral gyrus, 
left parietal operculum, and a smaller infarct within the left 
insular cortex, with no evidence of hemorrhagic transformation. 
3. Fluid within the underdeveloped middle ear cavities and 
mastoid air cells. 
4. Bone erosion within the left mastoid and findings suggestive 
of prior 
temporal bone surgery, better visualized on recent noncontrast 
head CT.  
Findings concerning for age indeterminate coalescent mastoiditis 
and/or 
cholesteatoma.  If clinically indicated, consider ENT 
consultation and 
dedicated temporal bone CT for further evaluation. 
5. Paranasal sinus disease , as described. 

Transthoracic echocardiogram ___:
report pending

 
Brief Hospital Course:
SUMMARY: Mr. ___ is a ___ year old man with PMH of HTN, HLD and 
hypothyroidism who presented on ___ as a transfer from ___ 
___ with intermittent RUE weakness and aphasia since ___ 
on the day of admission. NIHSS at OSH was initially 1 for right 
nasolabial fold flattening, repeat NIHSS was 3. He scored for 
right NLFF, RUE drift and RUE sensory deficits. CTH negative. 
CTA revealed no vessel cut off. tPA was not given. He was noted 
to have new onset atrial fibrillation. He was transferred to 
___ for further management, where he was found to have an 
NIHSS of 3, scoring for right lower facial, RUE sensory deficit. 
During the neurologic exam in the Emergency Department, the 
patient had worsening numbness/weakness in his right hand. CT 
head obtained and did not show any bleed. Heparin drip was 
initiated. His neurologic exam was notable for mild word finding 
difficulty, slightly
hypophonic voice, right facial, mild RUE sensory deficit, 
postural tremor BUE, right toe up, and clear cortical sensory 
loss (agraphesthsia) in right hand. 

HOSPITAL COURSE:
#Left insular and frontal lobe infarcts: Patient was admitted to 
stroke neurology step-down unit on a heparin drip, after 
developing an episode of numbness and weakness in the right hand 
in the emergency department and his new onset atrial 
fibrillation. By the time of arrival to floor, his right-sided 
weakness and speech difficulties had resolved. Workup included 
MRI revealing acute infarct involving the left insula and 
superficial frontal lobe. CTA did not reveal any significant 
vessel stenosis or occlusion. With respect to stroke risk 
factors, hemoglobin A1c was 5.7, LDL was 116. Decision made to 
not start patient on statin given that etiology was likely 
secondary to afib, and LDL was only slightly above goal. 

Overall, stroke etiology was likely embolic in setting of new 
onset atrial fibrillation and distribution of infarcts. Given 
his high risk for further thromboembolic events, decision made 
to continue anticoagulation with oral anticoagulation. 
Preference is to start apixaban (Eliquis) - a request for prior 
authorization was initiated, but will require follow up after 
the holiday weekend. In the meantime, he was discharged with 
instructions to take Lovenox injections for anticoagulant 
protection until the prior authorization will be resulted, in 
which circumstance he can either be started on apixaban (if 
approved) or warfarin (if denied). An echocardiogram was 
performed prior to discharge; results still pending, which will 
be followed up communicated to PCP.

Transitional issues:
[ ] Prior authorization for apixaban 5mg BID was started. Please 
follow up results on ___.
[ ] Patient was discharged on lovenox 1mg/kg q12h. If his prior 
authorization is approved, please discontinue lovenox and start 
on apixaban. If his prior authorization is denied, please start 
him on warfarin and continue the lovenox as bridge until his INR 
reaches therapeutic range (___).
[ ] Echocardiogram was performed prior to discharge, report 
remains pending. We will communicate results to PCP once 
finalized.
[ ] Patient will be scheduled for Stroke clinic follow up at 
___.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake?Yes, confirmed done 

 2. DVT Prophylaxis administered?  Yes 
 3. Antithrombotic therapy administered by end of hospital day 
2? Yes 
 4. LDL documented?  Yes (LDL = 116)
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) No [if LDL >70, reason 
not given: small vessel disease is unlikely etiology for stroke, 
age and comorbidities]
 6. Smoking cessation counseling given? No [reason- non-smoker]  

 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? Yes  
 8. Assessment for rehabilitation or rehab services considered? 
Yes
 9. Discharged on statin therapy? No [if LDL >70, reason not 
given:  
 Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist: 
small vessel disease is unlikely etiology for stroke, age and 
comorbidities
 10. Discharged on antithrombotic therapy? Yes [Type: 
Anticoagulation]
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? Yes 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Temazepam 50 mg PO QHS 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*5 
2.  Enoxaparin Sodium 120 mg SC ONCE Duration: 1 Dose 
RX *enoxaparin 120 mg/0.8 mL ___very 24 hours Disp #*5 
Syringe Refills:*0 
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Levothyroxine Sodium 25 mcg PO DAILY  
5.  Pravastatin 20 mg PO QPM  
6.  Temazepam 50 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left parietal cortex ischemic stroke 
Atrial fibrillation, new diagnosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
 You were hospitalized due to symptoms of resulting from an 
ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- Atrial fibrillation
- Age
- High blood pressure 

We are changing your medications as follows:  
- Starting on Lovenox ___ subcutaneous injection every 24 
hours - please take this for at least 3 days.
- We are working on approval for you to start on Apixaban 5mg 
twice daily - this will likely be followed up on ___. 
If the medication is approved, please stop the Lovenox 
injections and start taking Apixaban. However, if this 
medication is denied, then your PCP ___ contact you for 
instructions to start taking Coumadin instead.

Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

It was a pleasure taking care of you. We wish you the best!

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___